US06936602B1
4N sodium hydroxide (36 ml) was added to 1-isopropyl-2-pyrrolidone (9.2 g), and the mixture was stirred for 3.5 hours. After cooled to 0° C., the mixture was neutralized with concentrated hydrochloric acid. After sodium carbonate (15.3 g) was added thereto, a solution of 5-bromo-2-fluorobenzaldehyde (7.3 g) in dimethyl sulfoxide (96 ml) was added thereto, and the mixture was heated to reflux for 5 hours. After cooled to room temperature, pH was adjusted to approximate 4 with 6N hydrochloric acid, and the mixture was extracted with ethyl acetate/THF. The extract was washed with saturated brine and dried with magnesium sulfate. The solvent was removed under reduced pressure, and the resulting residue was purified with silica gel column chromatography (hexane/ethyl acetate=4/1→3/2) to give 4-(4-bromo-2-formylisopropylanilino)butyric acid (0.92 g).

reactant | sodium hydroxide | 4N, 36 ml | [OH-].[Na+]
reactant | 1-isopropyl-2-pyrrolidone | 9.2 g | C(C)(C)N1C(CCC1)=O | C7H13NO
reactant | hydrochloric acid | Cl | ClH
reactant | sodium carbonate | 15.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-bromo-2-fluorobenzaldehyde | 7.3 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | dimethyl sulfoxide | 96 ml | CS(=O)C | C2H6OS
product | 4-(4-bromo-2-formylisopropylanilino)butyric acid | 0.92 g | BrC1=CC(=C(N(CCCC(=O)O)C(C)C)C=C1)C=O | C14H18BrNO3
